US07951794B2
A solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (300 mg, 0.86 mmol) in 2-propanol (7.5 mL) and 3 N aq. NaOH (2.5 mL) is treated with epichlorohydrine (158 mg, 1.72 mmol) and the mixture is stirred at rt for 24 h, then diluted with water and extracted with EA. The solvent of the organic extract is evaporated and the residue is purified by CC on silica gel eluting with hepaten:EA 5:1 to give 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (92 mg) as an oil; LC-MS: tR=1.13 min, [M+1]+=407.24.

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 0.86 mmol, 300 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C)C | C22H22O2S
reactant | epichlorohydrine | 1.72 mmol, 158 mg | C(Cl)C1CO1 | C3H5ClO
solvent | 2-propanol | 7.5 mL | CC(C)O | C3H8O
solvent | NaOH | 3 N, 2.5 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 92 mg | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C | C25H26O3S
